US05728686
c) 1-Ethoxymethyl-3-methylxanthine
17.5 g (0.056 mol) of 7-benzyl-1-ethoxymethyl-3-methylxanthine were hydrogenated over 1.8 g of palladium (10%) on activated carbon at room temperature for 8 hours in 500 ml of ethanol. The catalyst was filtered off and the filtrate was concentrated to dryness and crystallized from dimethylformamide/diisopropyl ether.

reactant | 7-benzyl-1-ethoxymethyl-3-methylxanthine | 0.056 mol, 17.5 g | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)COCC)=O)C | C16H18N4O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium | 1.8 g | [Pd] | Pd
product | 1-Ethoxymethyl-3-methylxanthine | C(C)OCN1C(=O)N(C=2N=CNC2C1=O)C | C9H12N4O3
